US07084160B2
N-cyclopropyl-4-fluoro-3-methanesulfonylaminobenzamide was prepared by treatment of N-cyclopropyl-4-fluoro-3-aminobenzamide (prepared by a procedure similar to Example 1) with methanesulfonyl chloride in the presence of pyridine by standard procedure.

reactant | N-cyclopropyl-4-fluoro-3-aminobenzamide | C1(CC1)NC(C1=CC(=C(C=C1)F)N)=O | C10H11FN2O
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | N-cyclopropyl-4-fluoro-3-methanesulfonylaminobenzamide | C1(CC1)NC(C1=CC(=C(C=C1)F)NS(=O)(=O)C)=O | C11H13FN2O3S
